US05750531
Step 1: 5-Methyl-4-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]-pyridin-6-yl)-6-ethyl-2-chloropyrimidine
In accordance with the same procedure as in Step 1 of Example 1, except that triethylamine(2.2 ml), N,N-dimethyl formamide(20 ml), 2,4-dichloro-5-methyl-6-ethylpyrimidine (2.7 g, 14.1 mmol) prepared in Preparation 4 and 7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine(2.4 g, 15.7 mmol) prepared in Preparation 1 were used as starting materials, 2.23 g of the titled compound was prepared. (Yield: 51.3%)

reactant | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-5-methyl-6-ethylpyrimidine | 14.1 mmol, 2.7 g | ClC1=NC(=C(C(=N1)Cl)C)CC | C7H8Cl2N2
reactant | 7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 15.7 mmol, 2.4 g | CC1NCCC2=C1SC=C2 | C8H11NS
solvent | N,N-dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-Methyl-4-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]-pyridin-6-yl)-6-ethyl-2-chloropyrimidine | 2.23 g, Yield: 51.3% | CC=1C(=NC(=NC1CC)Cl)N1C(C2=C(CC1)C=CS2)C | C15H18ClN3S
